US05112829
1-Benzyl-2,3,9,10,11,12-hexahydroquino[4,3,2-ef][1,4]benzoxazepine
To a solution of 1-benzyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (4.71 g) in dry tetrahydrofuran (200 ml) was added borane in tetrahydrofuran (1M, 65 ml). The reaction mixture was stirred at room temperature overnight, quenched with 5% hydrochloric acid (500 ml), and stirred for an additional 2.5 hrs. The reaction mixture was cooled (0° C.), basified with 10% sodium hydroxide solution (500 ml), and extracted with ethyl acetate (800 ml). The organic phase was washed with brine, dried over anhydrous magnesium sulfate, and concentrated. Recrystallization of the residue from methanol yielded 3.05 g (68%) of product, mp 132°-133° C.

reactant | 1-benzyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.71 g | C(C1=CC=CC=C1)N1C(COC2=C3C1=C1CCCCC1=NC3=CC=C2)=O | C22H20N2O2
reactant | borane | B | BH3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 65 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-2,3,9,10,11,12-hexahydroquino[4,3,2-ef][1,4]benzoxazepine | 3.05 g, 68% | C(C1=CC=CC=C1)N1CCOC2=C3C1=C1CCCCC1=NC3=CC=C2 | C22H22N2O
